US04542145
3-Chloro-N-[2-(1H-1,2,4-triazol-1-yl)ethyl]-benzo[b]thiophene-2-carboxamide
A mixture of about 1.85 g of 1H-1,2,4-triazole-1ethanamine dihydrochloride, about 50 ml of methylene chloride, about 30 ml of 1N sodium hydroxide and about 2.3 g of 3-chlorobenzo-[b]thiophene carbonyl chloride was stirred for about 16 hours. A 50 ml portion of methylene chloride and about 5 ml of 1N sodium hydroxide were added and the layers were separated. The organic layer was washed twice with water dried and concentrated, giving the desired compound, mp 151°-152° C.

reactant | 1H-1,2,4-triazole-1ethanamine dihydrochloride | about 1.85 g | Cl.Cl.N1(N=CN=C1)CCN
reactant | sodium hydroxide | 1N, about 30 ml | [OH-].[Na+]
reactant | 3-chlorobenzo-[b]thiophene carbonyl chloride | about 2.3 g | ClC=1C2=C(SC1C(=O)Cl)C=CC=C2 | C9H4Cl2OS
reactant | sodium hydroxide | 1N, about 5 ml | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-[2-(1H-1,2,4-triazol-1-yl)ethyl]-benzo[b]thiophene-2-carboxamide | ClC=1C2=C(SC1C(=O)NCCN1N=CN=C1)C=CC=C2 | C13H11ClN4OS
